Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone
 
Attending: ___
 
Chief Complaint:
Abdominal pain, stage 2C ovarian cancer
 
Major Surgical or Invasive Procedure:
diagnostic laparoscopy, lysis of adhesions, biopsy of pelvic 
nodule

 
History of Present Illness:
Ms. ___ is a ___ with PMH of stage IIC poorly 
differentiated high grade serous ovarian carcinoma s/p 
TAH-BSO/total pelvic/para-aortic LND/omentectomy (___), 
developmental delay, Raynaud's disease, UCTD, and IBS who 
presented with abdominal pain associated with bloating, early 
satiety, and weight loss, found to have a new 2.3 cm pelvic 
nodule and rising CA-125 concerning for disease recurrence.  The 
patient states her abdominal pain started about two weeks ago, 
around the same time she found out she had a
recurrence of her cancer. She states the pain is midline and
extends for her pelvis to her chest. The oral morphine she has 
at
home for pain has not been helping it and she has been to the ED
multiple times in the last few days. She also has had some
anorexia for the past few days. She denies any nausea. She had
some constipation a few days ago but this resolved after taking
miralax. She denies any recent fevers, cough, congestion,
shortness of breath, or rashes. She does have some dysuria.

REVIEW OF SYSTEMS:
- All reviewed and negative except as noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Stage IIC Ovarian cancer, high grade serous
- ___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ CA 125 Increasing 24.
- ___ CT Abd/Pelvis: 
1. There is a new 2.3 cm solid nodule in the pelvis adjacent to
the left-sided lymphocele long the the external iliac vessels. 
This is highly suspicious for disease recurrence.  
2.  A apparently new hypodensity in the liver in segment 
7 measuring 7 mm is also identified for which MRI is recommended
for further evaluation. 

PMH:
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS

Past Obstetric and Gynecologic Histories: 
Pregnancies: G0
No prior STDs
Not sexually active
Denies prior abnormal Pap smears
History of uterine fibroids

PSH: wrist surgery; right ovarian laparoscopic cystectomy; 
TAH/BSO, pelvic tumor resection,  
total pelvic lymphadenectomy, para-aortic LN resection,  
infracolic omemtectomy, peritoneal biopsies  

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal  
great uncle had colon cancer. Mother and grandfather have high  
blood pressure. Mother has DM, and father has psoriasis. She  
otherwise denies a family history of ovarian, uterine, cervical  

or vaginal cancer.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: T 98.2 BP 130/80 HR 87 RR 16 O2 98%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.

Discharge Physical Exam:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 08:41PM BLOOD WBC-4.8 RBC-4.13 Hgb-10.7* Hct-34.3 
MCV-83 MCH-25.9* MCHC-31.2* RDW-15.0 RDWSD-44.6 Plt ___
___ 08:41PM BLOOD Plt ___
___ 08:41PM BLOOD Neuts-76.5* Lymphs-17.5* Monos-4.6* 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-3.67 AbsLymp-0.84* 
AbsMono-0.22 AbsEos-0.04 AbsBaso-0.01
___ 08:41PM BLOOD Glucose-95 UreaN-14 Creat-0.8 Na-135 
K-3.7 Cl-98 HCO3-27 AnGap-14
___ 08:41PM BLOOD ALT-16 AST-16 AlkPhos-123* TotBili-0.1
___ 08:41PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.4# Mg-2.0

IMAGING:
MRI LIVER W&W/O CONTRAST ___:
1.  The hepatic dome suspicious lesion noted on the recent CT
does not correspond to a true liver lesion on the MRI. 
2. Solitary, 5 mm on enhancing T2 hyperintense segment VII 
lesion
which appears grossly unchanged from ___, and
likely represents a cyst or hemangioma.  No additional hepatic
lesions are identified. 

KUB ___:
FINDINGS: There are no abnormally dilated loops of large or 
small
bowel.  Moderate colonic stool burden in the ascending colon. 
Air-filled stomach. There is no free intraperitoneal air. 
Osseous
structures are unremarkable. There are no unexplained soft 
tissue
calcifications or unexplained radiopaque foreign bodies. 
Surgical clips in the pelvis at the bilateral side walls are
unchanged.  IMPRESSION: No evidence of high grade obstruction. 
Non-specific bowel gas pattern with moderate stool in colon. 

CXR PA/LAT ___:
IMPRESSION: No acute intrathoracic process. 

CTA Chest/Abdomen ___:
1. No acute intrathoracic or intraabdominal process 
2. Moderate to large colonic fecal loading. 
3. Short interval stability of a soft tissue density mass along
the left external iliac vessels, adjacent to a small lymphocele,
concerning for recurrent ovarian cancer. 
4. 2 hypodensities within the liver, 1 of which in segment 7
appears unchanged from the most recent prior study, and an
additional vague sub cm hypodensity within the liver dome, not
clearly appreciated on the prior CT.  As suggested previously,
further assessment with MRI is recommended. 
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with a history of stage IIc 
ovarian cancer status post total abdominal hysterectomy, 
bilateral salpingo-oopherectomy, pelvic and ___ lymph 
node dissection, and omentectomy in ___ followed by 
chemotherapy, admitted to the medicine service on ___ with 
abdominal pain.  

Ms. ___ presented with progressive symptoms including 
bloating, pain, early satiety, fatigue, and weight loss over 
past 5 months. She also had biochemical and radiographic 
findings raising high index of suspicion for ovarian cancer 
recurrence. Therefore, the GYN oncology team was consulted to 
consider cytoreductive surgery vs. surgical assessment with 
laparoscopy/biopsy for confirmation of recurrence.

On ___, Ms. ___ underwent a diagnostic laparoscopy, 
lysis of adhesions, and biopsy of a pelvic nodule with the GYN 
oncology team. Please see the operative report for full details. 
She was then transferred from the medicine service to the GYN 
oncology service for post-operative care.

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV 
Morphine/acetaminophen. Her diet was advanced without difficulty 
and she was transitioned to PO morphine/acetaminophen/ibuprofen. 
On post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

On post-operative day #1, she developed some chest discomfort. 
She had an EKG done that showed normal sinus rhythm, and chest 
discomfort resolved. It was thought to be anxiety-related. She 
also developed diarrhea, and her bowel regimen was discontinued 
with improvement. She had a negative c. diff stool culture.

By post-operative day #2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Estrogens Conjugated 0.3 mg PO DAILY surgical menopause 
2. Gabapentin 600 mg PO QHS 
3. Loratadine 10 mg PO DAILY 
4. Lorazepam 0.5-1 mg PO QHS:PRN Anxiety 
5. Omeprazole 40 mg PO DAILY 
6. Amitriptyline 10 mg PO HS PRN  insomnia 
7. Losartan Potassium 75 mg PO DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. ARIPiprazole 2 mg PO QHS 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
11. Docusate Sodium 100 mg PO BID 
12. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
13. Morphine Sulfate ___ 7.5-15 mg PO Q8H:PRN Pain 
14. DULoxetine 120 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS PRN  insomnia 
2. ARIPiprazole 2 mg PO QHS 
3. Docusate Sodium 100 mg PO BID 
4. DULoxetine 120 mg PO DAILY 
5. Gabapentin 600 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Loratadine 10 mg PO DAILY 
8. Lorazepam 0.5-1 mg PO QHS:PRN Anxiety 
9. Losartan Potassium 75 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
12. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not take more than 4000mg in 24 hours. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1
13. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1
14. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
15. Estrogens Conjugated 0.3 mg PO DAILY surgical menopause 
RX *conjugated estrogens [Premarin] 0.3 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3
16. Morphine Sulfate ___ 7.5-15 mg PO Q8H:PRN Pain 
RX *morphine 15 mg ___ tablet(s) by mouth every 8 hours Disp 
#*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stage IIc ovarian carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery. If you have steri-strips, leave them on. If they are 
still on after ___ days from surgery, you may remove them.   
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___